US04891358
Tripeptide H-Arg(Tos)-Ile-Gly-OFm: The latter dipeptide (14.81 g, 27.3 mmol) was dissolved in DMF (75 mL). TFA.H-Gly-OFm (10.0 g, 27.3 mmol), DIEA (14.3 mL, 81.9 mmol) and HOBt (3.69 g, 27.3 mmol) were added to the solution. The mixture was diluted with CH2Cl2 (225 mL) and cooled to 0° C. A solution of DCC (5.63 g, 27.3 mmol) in 25 mL of CH2Cl2 was added to the mixture. The mixture was stirred for 18 h while the temperature of the mixture was allowed to rise to room temperature. The reaction mixture was worked up to the same manner as described for Boc-Arg(Tos)-Ile-OFm in the preceding paragraph, except that the product obtained following the washings was purified by chromatography on silica gel, using EtOAc-hexane (1:1) as eluent, to give Boc-Arg(Tos)-Ile-Gly-OFm (13.2 g). The Boc protecting group was removed from the latter compound (13.0 g) with 1N HCl in glacial acetic acid, of Example 6 (c), to give the desired tripeptide as its HCl addition salt (12.0 g).

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | H-Gly | NCC(=O)O | C2H5NO2
reactant | DIEA | 81.9 mmol, 14.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 27.3 mmol, 3.69 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 27.3 mmol, 5.63 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Boc-Arg(Tos)-Ile | N([C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H]([C@@H](C)CC)C(=O)O)C(=O)OC(C)(C)C | C24H39N5O7S
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 225 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | Boc-Arg(Tos)-Ile-Gly | N([C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H]([C@@H](C)CC)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C26H42N6O8S
